US08669266B2
(i) 4-[(S)-4-tert-Butoxycarbonyl-2-({7-methyl-4-[2-oxo-2-(2-oxo-pyrrolidin-1-yl)-ethoxy]-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 200 mg of 4-{(S)-4-Carboxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 2.5 ml of DMF, 184 mg of cesium carbonate and 91 mg of 1-(2-Chloro-acetyl)-pyrrolidin-2-one was added and the reaction mixture was stirred for 3 days at RT. Then, the reaction mixture was diluted with water and filtered through a chem Elut® cartridge by eluting with ethyl acetate. The solvents were removed under reduced pressure and the isolated crude product was pure enough for the next reaction step.

reactant | 4-{(S)-4-Carboxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C23H28N4O7
reactant | cesium carbonate | 184 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-Chloro-acetyl)-pyrrolidin-2-one | 91 mg | ClCC(=O)N1C(CCC1)=O | C6H8ClNO2
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[(S)-4-tert-Butoxycarbonyl-2-({7-methyl-4-[2-oxo-2-(2-oxo-pyrrolidin-1-yl)-ethoxy]-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(N1C(CCC1)=O)=O)C)=O | C33H43N5O9
